US04294760
A solution of 1.65 g (0.01 mole) of p-chlorobenzoylcyanide, 1.81 g (0.01 mole) of ethyl 1,4-dimethylpyrrole-2-acetate and 0.08 g of anhydrous oxalic acid in 4 ml of ether was stored in the dark under nitrogen for four days. The solution was diluted with CH2Cl2. The organic solution was washed with 10 percent NaOH solution, dried (MgSO4), and the solvent evaporated in vacuo. The residue was recrystallized from 1,1,1-trichloroethane to give 1.04 g of ethyl 5-(4-chlorobenzoyl)-1,4-dimethylpyrrole-2-acetate, mp 105°-108° C., undepressed by admixture with authentic material.

reactant | p-chlorobenzoylcyanide | 0.01 mole, 1.65 g | ClC1=CC=C(C(=O)C#N)C=C1 | C8H4ClNO
reactant | ethyl 1,4-dimethylpyrrole-2-acetate | 0.01 mole, 1.81 g | CN1C(=CC(=C1)C)CC(=O)OCC | C10H15NO2
reactant | oxalic acid | 0.08 g | C(C(=O)O)(=O)O | C2H2O4
solvent | ether | 4 ml | CCOCC | C4H10O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | ethyl 5-(4-chlorobenzoyl)-1,4-dimethylpyrrole-2-acetate | 1.04 g | ClC1=CC=C(C(=O)C2=C(C=C(N2C)CC(=O)OCC)C)C=C1 | C17H18ClNO3
